US04199506
To a stirred mixture of 65 g (0.4995 ) mole of ethyl acetoacetate, 200 ml. of methanol and 100 ml. of saturated sodium acetate at 50° C. was introduced 100 g (0.769 mole) of pentafluoropropionitrile in 3 hours. The reaction mixture was poured into 1200 ml. of water. An oil separated from the reaction mixture. The aqueous solution was extracted with ether. The ether solution was combined with the oil, dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 40 g (37%) of ethyl 2-acetyl-3-amino-4,4,5,5,5-pentafluoro-2-pentenoate. A mixture of 21.8 g (0.0790 mole) of ethyl 2-acetyl-3-amino-4,4,5,5,5-pentafluoro-2-pentenoate and 75 ml. of 58% ammonium hydroxide was stirred for 66 hours. The reaction mixture was extracted with ether. The ether solution was dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 16.3 g (88%) of ethyl 3-amino-4,4,5,5,5-pentafluoro-2-pentenoate, nD25 =1.4011. A well stirred mixture of 54 g (0.23 mole) of ethyl 3-amino-4,4,5,5,5-pentafluoro-2-pentenoate and 31 g (0.237 mole) of chlorocarbonylsulfenyl chloride was held at 100° C. for 1 hour. The reaction mixture was cooled and triturated with hexane. The solid precipitate was washed with water and recrystallized from hexane-ether to give 31 g (46%) of ethyl 2,3-dihydro-2-oxo-4-pentafluoroethyl-5-thiazolecarboxylate, m.p. 95°-97° C. A mixture of 10 g (0.0344 mole) of ethyl 2,3-dihydro-2-oxo-4-pentafluoroethyl-5-thiazole-carboxylate, 4 g (0.0506 mole) of pyridine and 150 ml. of phosphorus oxychloride was held at reflux for 18 hours. Excess phosphorus oxychloride was removed under reduced pressure. The residue was treated with water and extracted with ether. The ether solution was dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 7.5 g (71%) of ethyl 2-chloro-4-pentafluoroethyl-5-thiazolecarboxylate, nD25 =1.4460.

reactant | ethyl 2,3-dihydro-2-oxo-4-pentafluoroethyl-5-thiazole-carboxylate | 0.0344 mole, 10 g | O=C1SC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C8H6F5NO3S
reactant | pyridine | 0.0506 mole, 4 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-chloro-4-pentafluoroethyl-5-thiazolecarboxylate | 7.5 g, 71% | ClC=1SC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C8H5ClF5NO2S
